US05153226
Step 2--Preparation of (±)-N-[2,6-bis(1-methylethyl)phenyl]-2-[(2,2-diphenylethyl)amino]propanamide
A solution of (±)-N-[2,6-bis(1-Methylethyl)-phenyl]-2-bromopropanamide (2.0 g, 6.4 mmol), 2,2-diphenylethylamine (1.26 g, 6.41 mmol) and triethylamine (1.8 mL, 13 mmol) in acetonitrile (30 mL) was refluxed (96 hours), then cooled (25° C.). The resulting slurry was diluted with ethyl acetate (300 mL), washed with water (1×100 mL), with saturated aqueous sodium bicarbonate (1×100 mL), with brine (1×100 mL), then dried (MgSO4) and concentrated. Crystallization from ethyl acetate/hexane yielded 2.0 g (72.8%) of the title compound as a white solid, mp 206.5°-208.5° C.

reactant | (±)-N-[2,6-bis(1-Methylethyl)-phenyl]-2-bromopropanamide | 6.4 mmol, 2.0 g | CC(C)C1=C(C(=CC=C1)C(C)C)NC(C(C)Br)=O | C15H22BrNO
reactant | 2,2-diphenylethylamine | 6.41 mmol, 1.26 g | C1(=CC=CC=C1)C(CN)C1=CC=CC=C1 | C14H15N
reactant | triethylamine | 13 mmol, 1.8 mL | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 30 mL | C(C)#N | C2H3N
solvent | ethyl acetate | 300 mL | C(C)(=O)OCC | C4H8O2
product | (±)-N-[2,6-bis(1-methylethyl)phenyl]-2-[(2,2-diphenylethyl)amino]propanamide | 2.0 g, 72.8% | CC(C)C1=C(C(=CC=C1)C(C)C)NC(C(C)NCC(C1=CC=CC=C1)C1=CC=CC=C1)=O | C29H36N2O
